US09422287B2
a) [2,5-Biscarbazol-9-yl-4-(hydroxydiphenylmethyl)phenyl]diphenyl-methanol
The compound is synthesised by the same procedure as for the corresponding step of Example 5 by reaction of 73 g (140 mmol) of dimethyl 2,5-biscarbazol-9-ylterephthalate with 400 ml (600 mmol) of 1.6 M phenyllithium solution. The yield is 89 g (115 mmol), corresponding to 82% of theory.

reactant | dimethyl 2,5-biscarbazol-9-ylterephthalate | 140 mmol, 73 g | C1=CC=CC=2C3=CC=CC=C3N(C12)C1=C(C(=O)OC)C=C(C(=C1)C(=O)OC)N1C2=CC=CC=C2C=2C=CC=CC12 | C34H24N2O4
reactant | phenyllithium | 600 mmol, 1.6 M, 400 ml | C1(=CC=CC=C1)[Li]
product | [2,5-Biscarbazol-9-yl-4-(hydroxydiphenylmethyl)phenyl]diphenyl-methanol | C1=CC=CC=2C3=CC=CC=C3N(C12)C1=C(C=C(C(=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)N1C2=CC=CC=C2C=2C=CC=CC12)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C56H40N2O2
